US07713979B2
3-(2,6-Dichloro-4-hydroxybenzyl)-1-(cis-2-methylcyclohexyl) pyrrolidin-2-one
Dissolve 3-(2,6-dichloro-4-methoxybenzyl)-1-(cis-2-methylcyclohexyl) pyrrolidin-2-one (1.29 g, 3.47 mmol) in DCM (100 mL) and cool to 0° C. Stir the solution under N2 and add BBr3 (2.61 g, 10.42 mmol). Continue to stir the reaction mixture for 2 hours and add water (100 mL). Extract the aqueous layer with dichloromethane (3×200 mL). Combine the organic layers and dry with Na2SO4, filter, concentrate and purify by flash column chromatography (silica gel, 40-100% of EtOAc-Hexane) to give 1.06 g (85%) of the title compound as a white solid: MS (APCI-pos mode) m/z (rel intensity) 356.1 (100), 358.1 (60).

reactant | 3-(2,6-dichloro-4-methoxybenzyl)-1-(cis-2-methylcyclohexyl) pyrrolidin-2-one | 3.47 mmol, 1.29 g | ClC1=C(CC2C(N(CC2)[C@H]2[C@H](CCCC2)C)=O)C(=CC(=C1)OC)Cl | C19H25Cl2NO2
reactant | BBr3 | 10.42 mmol, 2.61 g | B(Br)(Br)Br | BBr3
reactant | water | 100 mL | O | H2O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-(2,6-Dichloro-4-hydroxybenzyl)-1-(cis-2-methylcyclohexyl) pyrrolidin-2-one | 1.06 g, 85% | ClC1=C(CC2C(N(CC2)[C@H]2[C@H](CCCC2)C)=O)C(=CC(=C1)O)Cl | C18H23Cl2NO2
